US04994535
Tetrachloroethylene was reacted with dicyclopentadiene at 190° C. in the same manner as Examples 1-7 to produce 5,5,6,6-tetrachloronor-bornene (called "TECN" hereinafter).

reactant | dicyclopentadiene | C1C=CC2C1C3CC2C=C3 | C10H12
reactant | Tetrachloroethylene | ClC(=C(Cl)Cl)Cl | C2Cl4
product | 5,5,6,6-tetrachloronor-bornene | ClC1(C2C=CC(C1(Cl)Cl)C2)Cl | C7H6Cl4
